US06921763B2
To a mixture of 3-iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride (0.4 g, 0.00096 mol) and potassium carbonate (0.40 g, 0.0029 mol) in N,N-dimethylformamide (25 mL) was added 2-bromoethyl methyl ether (0.09 mL, 0.00096 mol) at room temperature. The heterogeneous mixture was stirred at 60° C. under an atmosphere of nitrogen for 7 hours. The reaction mixture was cooled to room temperature, and 2-bromoethyl methyl ether (0.045 mL, 0.00048 mol) was added. The mixture was stirred at 60° C. under an atmosphere of nitrogen for 16 hours. To the mixture to the room temperature, 2-bromoethyl methyl ether (0.019 mL, 0.00019 mol) and potassium iodide (0.008 g, 0.000048 mol) were added in order to complete the reaction. The mixture was stirred at 70° C. under an atmosphere of nitrogen for 7 hours. The solvent was removed under the reduced pressure. The residue was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane (4×50 mL). The combined organic extracts were washed with water, and brine, and dried over magnesium sulfate. The solvents were evaporated under the reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-50% over 30 min with 0.1 M ammonium acetate, 21 mL/min) to yield 3-iodo-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.2 g, 0.0005 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 6.4 min. MS: MH+ 403

reactant | 3-iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride | 0.00096 mol, 0.4 g | Cl.Cl.IC1=NN(C2=NC=NC(=C21)N)C2CCNCC2
reactant | potassium carbonate | 0.0029 mol, 0.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 0.00096 mol, 0.09 mL | COCCBr | C3H7BrO
reactant | 2-bromoethyl methyl ether | 0.00048 mol, 0.045 mL | COCCBr | C3H7BrO
reactant | 2-bromoethyl methyl ether | 0.00019 mol, 0.019 mL | COCCBr | C3H7BrO
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.000048 mol, 0.008 g | [I-].[K+]
product | 3-iodo-1-[1-(2-methoxyethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0005 mol, 0.2 g | IC1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)CCOC | C13H19IN6O
